US06235771B1
To a suspension of 4-propoxyphenol (10.0 g) and potassium carbonate (10.0 g) in DMF (50 ml) was added bromoacetaldehydedimethylacetal (12.2 g), and the mixture was refluxed for 14 hours and cooled. To the mixture was added water, and the mixture was extracted with ethyl acetate (twice). The organic layer was washed with 1N sodium hydroxide solution (twice) and then washed with saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography to give yellow oil of 4-(2,2-dimethoxy)ethoxypropoxybenzene (12.2 g).

reactant | 4-propoxyphenol | 10.0 g | C(CC)OC1=CC=C(C=C1)O | C9H12O2
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetaldehydedimethylacetal | 12.2 g | CC(C)CBr | C4H9Br
reactant | water | O | H2O
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(2,2-dimethoxy)ethoxypropoxybenzene | 12.2 g | COC(COCCCOC1=CC=CC=C1)OC | C13H20O4
